US07018988B2
(2S,4EZ)-4-(tert-butoxyimino)-N-[2-(1H-pyrrol 1-yl)phenyl]-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(tert-butoxyimino)-2-pyrrolidinecarboxylic acid, and 2-(1H-pyrrol-1-yl)phenylamine the title compound was obtained in 83% purity by LC/MS. MS(ESI+): m/z=341.2.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(tert-butoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC(C)(C)C)C(=O)O | C14H24N2O5
reactant | 2-(1H-pyrrol-1-yl)phenylamine | N1(C=CC=C1)C1=C(C=CC=C1)N | C10H10N2
product | (2S,4EZ)-4-(tert-butoxyimino)-N-[2-(1H-pyrrol 1-yl)phenyl]-2-pyrrolidinecarboxamide | C(C)(C)(C)ON=C1C[C@H](NC1)C(=O)NC1=C(C=CC=C1)N1C=CC=C1 | C19H24N4O2
